US04508730
(b) N-(4-benzoyl-1,5-dimethyl-(1H)-pyrrol-3-yl) 2-chloroacetamide
N-(4-benzoyl-5-methyl(1H)-pyrrol-3-yl)2-chloroacetamide (0.019 mole) was dissolved in butan-2-one (60 ml) and K2CO3 (4.5 g) and dimethylsulphate (0.037 mole) were added to the obtained solution. The reaction mixture was maintained at the reflux temperature for 5 hours and at room temperature overnight. An inert atmosphere was maintained throughout the process. The inorganic salts were filtered and the clear solution was evaporated under vacuum to yield a residue which upon crystallization from methanol gave the compound of the title.

reactant | N-(4-benzoyl-5-methyl(1H)-pyrrol-3-yl)2-chloroacetamide | 0.019 mole | C(C1=CC=CC=C1)(=O)C=1C(=CNC1C)NC(CCl)=O | C14H13ClN2O2
reactant | K2CO3 | 4.5 g | C(=O)([O-])[O-].[K+].[K+]
reactant | dimethylsulphate | 0.037 mole | COS(=O)(=O)OC | C2H6O4S
solvent | butan-2-one | 60 ml | CC(CC)=O | C4H8O
product | N-(4-benzoyl-1,5-dimethyl-(1H)-pyrrol-3-yl) 2-chloroacetamide | C(C1=CC=CC=C1)(=O)C=1C(=CN(C1C)C)NC(CCl)=O | C15H15ClN2O2
